US04409220
2-Amino-7-(p-chlorophenyl-acetyl)-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine by method F
5.8 gm (17.9 mmols) of 2-amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine dihydrobromide were dissolved in 50 ml of 2 N sodium hydroxide, and the solution was admixed dropwise with an ice-cooled solution of 7.5 gm of p-chlorophenyl-acetyl chloride in 50 ml of dioxane. The resulting mixture was stirred overnight and then evaporated, and the residue was extracted with chloroform. The chloroform extract was dried and then evaporated, and the residue was triturated with carbon tetrachloride and suction-filtered.

reactant | 2-amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine dihydrobromide | 17.9 mmols, 5.8 gm | Br.Br.NC=1C=NC2=C(CCNCC2)N1
reactant | p-chlorophenyl-acetyl chloride | 7.5 gm | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
solvent | sodium hydroxide | 2 N, 50 ml | [OH-].[Na+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-Amino-7-(p-chlorophenyl-acetyl)-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine | NC=1C=NC2=C(CCN(CC2)C(CC2=CC=C(C=C2)Cl)=O)N1 | C16H17ClN4O
